US06617326B2
b) 1,1-Dibromo-3-fluoro-3-methyl-2-butanone
To a stirred solution of 3-methyl-3-fluoro-2-butanone (0.1031 g, 0.990 mmol) in anhydrous dichloromethane (5 ml) under nitrogen was added solid pyridinium tribromide (0.7035 g, 1.98 mmol) and the mixture was stirred at room temperature for 18 h. The mixture was then diluted with dichloromethane (5 ml), washed with dilute aqueous sodium hydrogensulfite (10 ml), then saturated aqueous NaCl (10 ml), dried (Na2SO4) and evaporated under low vacuum with no heat. The residue was purified by flash chromatography [silica gel, 5% Et2O/petroleum ether (40-60° C.)] to afford 0.1869 g (72%) of the title compound as a colourless oil: 1H NMR (360 MHz, CDCl3) δ 1.65 (6H, d, J 21.5 Hz), 6.51 (1H, d, J 1.5 Hz).

reactant | 3-methyl-3-fluoro-2-butanone | 0.990 mmol, 0.1031 g | CC(C(C)=O)(C)F | C5H9FO
reactant | pyridinium tribromide | 1.98 mmol, 0.7035 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1,1-Dibromo-3-fluoro-3-methyl-2-butanone | 0.1869 g, 72% | BrC(C(C(C)(C)F)=O)Br | C5H7Br2FO
